US07365231B2
1,4-Bis(4-amino-3-hydroxyphenoxy)-2-tert-butyl benzene was synthesized in a manner analogous to Example 2 from 1,4-bis(3-hydroxy-4-nitrophenoxy)-2-tert-butyl benzene. Yield: 80.2%; mp 110˜113° C.; IR (KBr): 3400, 3360, 3210, 1576, 1499 cm−1; MS (EI) m/z 380 (M+, 100); Elemental Anal. Calcd. for C22H24N2O4: C, 69.47; H, 6.32; N, 7.37. Found: C, 69.24; H, 6.43; N, 7.31.

reactant | 1,4-bis(3-hydroxy-4-nitrophenoxy)-2-tert-butyl benzene | OC=1C=C(OC2=C(C=C(C=C2)OC2=CC(=C(C=C2)[N+](=O)[O-])O)C(C)(C)C)C=CC1[N+](=O)[O-] | C22H20N2O8
reactant | KBr | [K+].[Br-]
product | 1,4-Bis(4-amino-3-hydroxyphenoxy)-2-tert-butyl benzene | Yield: 80.2% | NC1=C(C=C(OC2=C(C=C(C=C2)OC2=CC(=C(C=C2)N)O)C(C)(C)C)C=C1)O | C22H24N2O4
